US04286090
8-Methoxytetrazolo[4,5-C][1,2,3]benzotriazine
The above-named compound was prepared from 1 g of 5-(2-amino-4-methoxyphenyl)tetrazole, 0.45 g of NaNO2, and concentrated HCl and isolated from the reaction mixture by the procedures of Example 2. The residue obtained by evaporation of the chloroform extracts was a dark reddish-brown solid shown by liquid chromatographic analysis to be largely the named compound plus several minor impurities. The product was purified by percolating its chloroform solution through two 7-10 ml portions of 80-200 mesh alumina and evaporating the treated solution under nitrogen at room temperature. A yield of 0.54 g of orange solid was obtained. This purified material showed only trace impurities on thin layer chromatographic examination and its structure as the named compound was confirmed by magnetic resonance and infrared absorption analyses.

reactant | 5-(2-amino-4-methoxyphenyl)tetrazole | 1 g | NC1=C(C=CC(=C1)OC)C1=NN=NN1 | C8H9N5O
reactant | NaNO2 | 0.45 g | N(=O)[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-Methoxytetrazolo[4,5-C][1,2,3]benzotriazine | yield of 0.54 g | COC1=CC2=C(C=3N(N=N2)N=NN3)C=C1 | C8H6N6O
